US07973012B2
(4) Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol
To an acetonitrile solution (60 mL) of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[(4-bromophenyl)(hydroxy)methyl]-4-methylphenyl]-D-glucopyranose (5.50 g, 5.96 mmol) were added under nitrogen atmosphere at −10° C. Et3SiH (2.90 mL, 17.8 mmol) and BF3.Et2O (1.90 mL, 14.9 mmol), and the mixture was stirred for 15 minutes at the same temperature and the mixture was stirred for 2.5 hours at room temperature. To the reaction solution cooled in ice was added a saturated sodium bicarbonate aqueous solution and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=15:1 to 10:1) to obtain the title compound (2.70 g, 51%) as a pale yellow oily compound.

reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[(4-bromophenyl)(hydroxy)methyl]-4-methylphenyl]-D-glucopyranose | 5.96 mmol, 5.50 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C(O)C1=CC=C(C=C1)Br)C)OCC1=CC=CC=C1 | C55H53BrO8
reactant | Et3SiH | 17.8 mmol, 2.90 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 14.9 mmol, 1.90 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-bromobenzyl)-4-methylphenyl]-D-glucitol | 2.70 g, 51% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)Br)C)OCC1=CC=CC=C1 | C55H53BrO6
